US07728176B2
A 200-ml four-necked flask sufficiently purged with nitrogen was equipped with a stirrer, a thermometer and a reflux condenser. 5.5 g (40 mmol) of trichlorophosphine and 40.0 ml of tetrahydrofuran were weighed in the flask. A cyclopentylmagnesium chloride solution was added dropwise to the flask at an internal temperature of 10-20° C. over a period of 3 hours, wherein the solution had been previously prepared from 13.8 g (132 mmol) of cyclopentyl chloride and 3.2 g (132 mmol) of metallic magnesium in 49 g of tetrahydrofuran. The mixture was stirred at 20-30° C. for 2 hours. Gas chromatography analysis confirmed the disappearance of trichlorophosphine. After the completion of the reaction, 61 ml of toluene was added, and 11.8 g (6 mmol) of 5% sulfuric acid was added dropwise to dissolve the magnesium salt, followed by separation. The organic phase was washed with 11.8 ml of water, and a solution of tricyclopentylphosphine was obtained.

reactant | trichlorophosphine | 40 mmol, 5.5 g | ClP(Cl)Cl | Cl3P
reactant | cyclopentylmagnesium chloride | C1(CCCC1)[Mg]Cl
reactant | cyclopentyl chloride | 132 mmol, 13.8 g | C1(CCCC1)Cl | C5H9Cl
reactant | magnesium | 132 mmol, 3.2 g | [Mg] | Mg
reactant | sulfuric acid | 6 mmol, 11.8 g | S(O)(O)(=O)=O | H2O4S
reactant | toluene | 61 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 49 g | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40.0 ml | O1CCCC1 | C4H8O
product | tricyclopentylphosphine | C1(CCCC1)P(C1CCCC1)C1CCCC1 | C15H27P
